US08017599B2
Methyl-4-nitropyrrole-2-carboxylic acid (1)
Acetic anhydride (8 ml) and nitric acid (70%, 1.6 mL) were heated to 50° C. for 15 minutes and cooled to room temperature. The solution was then slowly added to a suspension of 1-methyl-2-pyrrolecarboxylic acid (2.0 g, 0.02 mol) in Ac2O (12 ml) cooled to −25° C. The mixture was stirred for 30 min at −15° C., warmed to room temperature and stirred for another 20 min. The mixture was again cooled to −25° C. and the resulting precipitate collected in a funnel cooled with dry ice. The solid was washed with cold Ac2O (−25° C.), followed by Ac2O:CCl4 (1:1, −25° C.), and then CCl4 and hexane. The yellow solid was dissolved in NaOH (1M) and acidified with HCl to yield the product as a light cream solid which was collected and air-dried. Yield 0.98 g (36%). 1H NMR (DMSO): δ 8.19 (d, 1H, J=1.8 Hz); 7.23 (d, 1H, J=2.0 Hz); 3.90 (s, 3H).

reactant | nitric acid | 1.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1-methyl-2-pyrrolecarboxylic acid | 0.02 mol, 2.0 g | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | Ac2O | 12 ml | CC(=O)OC(=O)C | C4H6O3
reactant | Acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl-4-nitropyrrole-2-carboxylic acid | CC1=C(NC=C1[N+](=O)[O-])C(=O)O | C6H6N2O4
